US06956037B2
N-{5-[4-(3-hydroxypropoxy)benzamido]-2-methylphenyl}-3,4-dimethoxybenzamide
S,S-Dioxothiamorpholine trifluoroacetic acid salt (0.22 g) was added to a stirred mixture of N-{5-[4-(3-chloropropoxy)benzamido]-2-methylphenyl}-3,4-dimethoxybenzamide (0.5 g), tetra-n-butylammonium iodide (0.096 g), di-isopropylethylamine (0.29 g) and DMA (4 ml) and the mixture was stirred and heated to 100° C. for 1 week. The reaction mixture was allowed to cool to ambient temperature and poured into water (100 ml). The resultant precipitate was isolated and washed with water and with diethyl ether. The solid so obtained was purified by column chromatography on silica gel using increasingly polar mixtures of methylene chloride and methanol as eluent. There were thus obtained in turn:

reactant | S,S-Dioxothiamorpholine trifluoroacetic acid salt | 0.22 g | FC(C(=O)O)(F)F.O=S1(CCNCC1)=O
reactant | N-{5-[4-(3-chloropropoxy)benzamido]-2-methylphenyl}-3,4-dimethoxybenzamide | 0.5 g | ClCCCOC1=CC=C(C(=O)NC=2C=CC(=C(C2)NC(C2=CC(=C(C=C2)OC)OC)=O)C)C=C1 | C26H27ClN2O5
reactant | di-isopropylethylamine | 0.29 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | DMA | 4 ml | CC(=O)N(C)C | C4H9NO
catalyst | tetra-n-butylammonium iodide | 0.096 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 100 ml | O | H2O
product | N-{5-[4-(3-hydroxypropoxy)benzamido]-2-methylphenyl}-3,4-dimethoxybenzamide | OCCCOC1=CC=C(C(=O)NC=2C=CC(=C(C2)NC(C2=CC(=C(C=C2)OC)OC)=O)C)C=C1 | C26H28N2O6
